US05086062
In 600 ml of tetrahydrofuran, containing 3.3 ml methanol were dissolved 47.3 g (82.3 mmol) of (2S,3S)-2-(methoxymethyl)oxy-3-(3-tosyloxypropyl)-1,4-butanediol dibenzoate and the solution was chilled in an ice-bath. To the solution were added, portionwise, 20.65 g (184 mmol) of potassium t-butoxide and the reaction mixture was stirred at room temperature for 2.5 hours. Then, an additional 2.46 g (22 mmol) of potassium t-butoxide and 150 μl of water were added and the reaction was stirred for an additional 30 minutes. Finally, 6 ml of water was added and the mixture was further stirred for 2 hours. The reaction mixture then was poured into a mixture of water and ethyl acetate. The aqueous phase was extracted four times with ethyl acetate and twice with 10% isopropanol-methylene chloride. The organic extracts were combined, dried over magnesium sulfate, carefully concentrated and purified by medium pressure column chromatography using silica gel and 72% ethyl acetate/hexane, 100% ethylacetate. The resulting compound, (2S)-2-[(3S)-tetrahydropyran-3-yl]-2-(methoxymethyl)oxyethanol, was found to be volatile. Thus, evaporation of the solvent was carefully carried out with an aspirator below room temperature. Pure fractions were collected and combined to yield 9.82 g of (2S)-2-[(3S)-tetrahydropyran-3-yl]-2-(methoxymethyl)oxyethanol contaminated with ethyl acetate (34%) as judged by 270 MHz 1H-NMR.

reactant | methanol | 3.3 ml | CO | CH4O
reactant | (2S,3S)-2-(methoxymethyl)oxy-3-(3-tosyloxypropyl)-1,4-butanediol dibenzoate | 82.3 mmol, 47.3 g | C(C1=CC=CC=C1)(=O)OC[C@H]([C@H](COC(C1=CC=CC=C1)=O)CCCOS(=O)(=O)C1=CC=C(C)C=C1)OCOC | C30H34O9S
reactant | potassium t-butoxide | 184 mmol, 20.65 g | CC(C)([O-])C.[K+]
reactant | potassium t-butoxide | 22 mmol, 2.46 g | CC(C)([O-])C.[K+]
reactant | water | 150 μl | O | H2O
reactant | water | 6 ml | O | H2O
solvent | tetrahydrofuran | 600 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S)-2-[(3S)-tetrahydropyran-3-yl]-2-(methoxymethyl)oxyethanol | 9.82 g | O1C[C@H](CCC1)[C@@H](CO)OCOC | C9H18O4
